US05166198
b) 6-Chloro-9-[3-(diethoxyphosphoryl)propoxy]-2-formamidopurine
A solution of 4-chloro-6-[[3-(diethoxyphosphoryl)-propoxy]amino]-2,5-diformamidopyrimidine (1.1 g, 2.7 mmol) in diethoxymethyl acetate (15 ml) was heated at 120° C. for 2 hours. The solution was then cooled, evaporated to dryness under reduced pressure and the residue obtained dissolved in methanol (10 ml) and 880 ammonia (1 ml). After standing at ambient temperature for 1 hr, the solvent was removed. The residue was chromatographed on silica gel (dichloromethane-methanol (98:2) as eluant) to give the title compound as a colorless oil which crystallised on standing, mp. 121°-124°, (1.01 g, 95%). IR: υmax (KBr) 1700, 1618, 1577, 1506, 1439, 1405, 1383, 1328, 1259, 1242, 1226, 1165, 1052, 1024, 972, 918 cm-1. 1H NMR: δH ((CD3)2SO) 1.21 (6H, t, J=7Hz, (O--CH2CH3)2), 1.75-2.1 (4H, m, CH2CH2P), 3.99 (4H, m, (OCH2CH3)2), 4.47 (2H, t, J=6Hz, N--OCH2), 8.83 (1Y, s, H--8), 9.37 (1H, s, CHO), 11.30 (1H, bs, D2O exchangeable, NHCHO). Found: C, 39.82; H, 4.96; N, 17.65%. C13H19N5O5ClP requires: C, 39.85; H, 4.89; N, 17.88%. m/z: C13H20N5O5PCl requires: 392.0890. Observed: 392.0888 (MH+).

reactant | 4-chloro-6-[[3-(diethoxyphosphoryl)-propoxy]amino]-2,5-diformamidopyrimidine | 2.7 mmol, 1.1 g | ClC1=NC(=NC(=C1NC=O)NOCCCP(=O)(OCC)OCC)NC=O | C13H21ClN5O6P
reactant | ammonia | 1 ml | N | H3N
solvent | diethoxymethyl acetate | 15 ml | C(C)(=O)OC(OCC)OCC | C7H14O4
solvent | methanol | 10 ml | CO | CH4O
product | 6-Chloro-9-[3-(diethoxyphosphoryl)propoxy]-2-formamidopurine | ClC1=C2N=CN(C2=NC(=N1)NC=O)OCCCP(=O)(OCC)OCC | C13H19ClN5O5P
